US05753664
3,5-Dimethyl-2-[4-(4-nitrobenzoyl)benzyl]thio-4(3H)-quinazolinone
To a solution of 3,5-dimethyl-2-mercaptoquinazolin-4-one (2.03 g, 9.74 mmol) in EtOH (30.0 ml)-THF (30.0 ml) was added 1N-aqueous sodium hydroxide solution (10.0 ml). Then, 4-(4-nitrobenzoyl)benzyl bromide (3.50 g, 10.9 mmol) was added and the mixture was stirred at room temperature overnight. The solvent was then distilled off and the residue was dissolved in ethyl acetate and washed with saturated aqueous NaCl solution. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The residue was recrystallized from methanol to provide light-yellow needles.

reactant | 3,5-dimethyl-2-mercaptoquinazolin-4-one | 9.74 mmol, 2.03 g | CN1C(=NC2=CC=CC(=C2C1=O)C)S | C10H10N2OS
reactant | THF | 30.0 ml | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 10.0 ml | [OH-].[Na+]
reactant | 4-(4-nitrobenzoyl)benzyl bromide | 10.9 mmol, 3.50 g | [N+](=O)([O-])C1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrNO3
solvent | EtOH | 30.0 ml | CCO | C2H6O
product | 3,5-Dimethyl-2-[4-(4-nitrobenzoyl)benzyl]thio-4(3H)-quinazolinone | CN1C(=NC2=CC=CC(=C2C1=O)C)SCC1=CC=C(C=C1)C(C1=CC=C(C=C1)[N+](=O)[O-])=O | C24H19N3O4S
